US06573378B1
To a suspension of 9-(4-hydroxy-3-hydroxymethylbut-1-yl)-guanine (0.25 g, 1.0 mmol) in pyridine (5 ml) was added chlorotrimethylsilane (0.32 ml, 2.5 mmol) and the mixture was stirred for 15 minutes. To this mixture was added hexanoyl chloride (0.18 ml, 1.3 mmol) and the mixture was stirred for 20 minutes. Methanol (2 ml) was then added and the mixture was stirred for a further 20 minutes. 1,8-Diazabicyclo[5.4.0]undec-7-ene (0.57 ml, 3.8 mmol) and water (0.5 ml) were added and the solvent was removed. The residue was purified by column chromatography on silica gel eluting with chloroform-methanol (4:1). Product containing fractions were pooled and the solvent removed. The residue was taken up in water and passed through C18-Sep-pak cartridges to afford N2-hexanoyl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (50 mg, 14%), m.p. 86-88° C.; νmax (KBr) 3400, 2960, 2940, 1675, 1610, and 1560 cm−1; δH [(CD3)2SO] 0.88 (3H, t, J 6.7 Hz, CH3) 1.29 (4H, m, CH3(CH2)2), 1.46 (1H, m, 3′-H), 1.60 (2H, m, CH2CH2CO), 1.77 (2H, q, J 7.1 Hz, 2′-H), 2.46 (2H, t, J 7.4 Hz, CH2CO) 3.3-3.5 (4H, m, 2×4′-H), 4.13 (2H, t, J 7.4 Hz, 1′-H), 4.41 (2H, t, J 4.7 Hz, D2O exchangeable, 2×OH), 7.98 (1H, s, 8-H), 11.65 (1H, br, D2O exchangeable, NH), and 12.01 (1H, br, D2O exchangeable, NH); (Found: C, 53.64; H, 7.56; N, 18.95%; C16H25N5O4.0.5H2O requires: C, 53.32; H, 7.27; N, 19.43%).

reactant | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)-guanine | 1.0 mmol, 0.25 g | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
reactant | chlorotrimethylsilane | 2.5 mmol, 0.32 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | hexanoyl chloride | 1.3 mmol, 0.18 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | 1,8-Diazabicyclo[5.4.0]undec-7-ene | 3.8 mmol, 0.57 ml | N12CCCCCC2=NCCC1 | C9H16N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 0.5 ml | O | H2O
solvent | Methanol | 2 ml | CO | CH4O
product | N2-hexanoyl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | 50 mg, 14% | C(CCCCC)(=O)NC=1NC(C=2N=CN(C2N1)CCC(CO)CO)=O | C16H25N5O4
